US04060523
To a stirred suspension of 80 g. (0.59 mol.) of benzofurazan 1-oxide and 95 g. (0.59 mol.) of benzoylacetone in 1,000 ml. of ethanol was added 1.6 g. (0.04 mol.) of finely divided sodium hydroxide. The mixture became clear after about 30 minutes. Stirring was continued for a further 16 hours, and then the solid which had precipitated was collected by filtration. It was washed with ethanol, and dried to afford 153 g. (92% yield) of 2-benzoyl-3-methylquinoxaline 1,4-dioxide, m.p. 229°-231° C.

reactant | benzofurazan 1-oxide | 0.59 mol | [N+]1(=C2C(=NO1)C=CC=C2)[O-] | C6H4N2O2
reactant | benzoylacetone | 0.59 mol | C(C1=CC=CC=C1)(=O)CC(C)=O | C10H10O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-benzoyl-3-methylquinoxaline 1,4-dioxide | 92% yield | C(C1=CC=CC=C1)(=O)C1=[N+](C2=CC=CC=C2[N+](=C1C)[O-])[O-] | C16H12N2O3
